US04808599
The reaction is carried out as in Example 1, starting with 4-(4-methoxyphenyl)benzo[b]thiophene-6-carboxylic acid (2.9 g) in toluene (30 cc) and thionyl chloride (2.3 cc) and triethylamine (4.3 cc) and diethylamine (1.1 cc) in anhydrous toluene (30 cc). After chromatography of the residue on silica gel using a cyclohexane:ethyl acetate (80:20 by volume) mixture as the eluent and recrystallization in isopropyl ether, N,N-diethyl-4-(4-methoxyphenyl)benzo[b]thiophene-6-carboxamide (1.12 g), m.p. 88° C., is isolated.

reactant | 4-(4-methoxyphenyl)benzo[b]thiophene-6-carboxylic acid | 2.9 g | COC1=CC=C(C=C1)C1=CC(=CC=2SC=CC21)C(=O)O | C16H12O3S
reactant | triethylamine | 4.3 cc | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 cc | C1(=CC=CC=C1)C | C7H8
solvent | thionyl chloride | 2.3 cc | S(=O)(Cl)Cl | Cl2OS
solvent | diethylamine | 1.1 cc | C(C)NCC | C4H11N
solvent | toluene | 30 cc | C1(=CC=CC=C1)C | C7H8
product | N,N-diethyl-4-(4-methoxyphenyl)benzo[b]thiophene-6-carboxamide | 1.12 g | C(C)N(C(=O)C=1C=C(C2=C(SC=C2)C1)C1=CC=C(C=C1)OC)CC | C20H21NO2S
